.SUBCKT mpsw45 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Apr 14, 98
* MODEL FORMAT: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 4.0573
D1 3 1 dmodel
* Default values used in dmodel
*   EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=10 N=1 XTI=3
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel npn
+IS=1.0035e-12 BF=377.195 NF=1.15276 VAF=107.442
+IKF=0.0515222 ISE=1.49147e-11 NE=2.13322 BR=5.03586
+NR=1.11644 VAR=117.493 IKR=0.0999644 ISC=9.49798e-14
+NC=2.12847 RB=13.4767 IRB=0.20768 RBM=10.084
+RE=0.15954 RC=0.797702 XTB=1.69624 XTI=1 EG=1.05
+CJE=1.62439e-11 VJE=0.95 MJE=0.43803 TF=1e-09
+XTF=100 VTF=10 ITF=1 CJC=1.51284e-11
+VJC=0.4 MJC=0.356798 XCJC=0.9 FC=0.5
+TR=7e-06 PTF=0 KF=0 AF=1
.MODEL q1model npn
+IS=1.0035e-12 BF=377.195 NF=1.15276 VAF=107.442
+IKF=0.0515222 ISE=1.49147e-11 NE=2.13322 BR=5.03586
+NR=1.11644 VAR=117.493 IKR=0.0999644 ISC=9.49798e-14
+NC=2.12847 RB=13.4767 IRB=0.20768 RBM=10.084
+RE=0.15954 RC=0.797702 XTB=1.69624 XTI=1 EG=1.05
+CJE=1.62439e-11 VJE=0.95 MJE=0.43803 TF=1e-09
+XTF=100 VTF=10 ITF=1 CJC=0
+VJC=0.4 MJC=0.356798 XCJC=0.9 FC=0.5
+TR=7e-06 PTF=0 KF=0 AF=1
.ENDS mpsw45
